US07414140B2
Fluvastatin methyl ester (2.0 g) was added to a solution of NaOH (1 eq.) in ethanol (15 ml). The mixture was stirred at about 70° C. for 1.75 h, after which the starting material was not detected by HPLC. Then, acetone (40 ml) was dripped into the solution and the mixture was cooled slowly to room temperature and stirred overnight. The product was isolated by filtration under nitrogen, washed with acetone (20 ml) and dried at 50° C. in a vacuum oven for 24 h to obtain 1.54 g (75.6%) of fluvastatin sodium Form VI.

reactant | Fluvastatin methyl ester | 2.0 g | CC(C)N1C2=CC=CC=C2C(=C1/C=C/[C@@H](C[C@@H](CC(=O)OC)O)O)C3=CC=C(C=C3)F | C25H28FNO4
reactant | NaOH | 1 eq. | [OH-].[Na+]
reactant | acetone | 40 ml | CC(=O)C | C3H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | fluvastatin sodium | 1.54 g, 75.6% | CC(C)N1C=2C=CC=CC2C(=C1/C=C/C(CC(CC(=O)[O-])O)O)C=3C=CC(=CC3)F.[Na+] | InChI=1S/C24H26FNO4.Na/c1-15(2)26-21-6-4-3-5-20(21)24(16-7-9-17(25)10-8-16)22(26)12-11-18(27)13-19(28)14-23(29)30;/h3-12,15,18-19,27-28H,13-14H2,1-2H3,(H,29,30);/q;+1/p-1/b12-11+;
